US08242133B2
A mixture of 0.88 g of 3-chloroisonicotinic acid, 5 ml of thionyl chloride and 20 mg of DMF was heated to reflux for three hours. After the reaction mixture was cooled to room temperature, it was concentrated under reduced pressure to give 3-chloroisonicotinic acid chloride. The resultant 3-chloroisonicotinic acid chloride and 4 ml of DMF was added dropwise to a mixture of 1.0 g of 3-amino-2-hydroxy-5-trifluoromethylpyridine, 1.14 g of triethylamine and 8 ml of DMF while ice-cooling. The reaction mixture was stirred at room temperature for one hour, and then stirred while heating at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.87 g of 3-chloro-N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]isonicotinamide.

reactant | 3-chloroisonicotinic acid chloride | ClC1=C(C(=O)Cl)C=CN=C1 | C6H3Cl2NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 3-amino-2-hydroxy-5-trifluoromethylpyridine | 1.0 g | NC=1C(=NC=C(C1)C(F)(F)F)O | C6H5F3N2O
reactant | triethylamine | 1.14 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-chloro-N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]isonicotinamide | 0.87 g | ClC1=C(C(=O)NC=2C(=NC=C(C2)C(F)(F)F)O)C=CN=C1 | C12H7ClF3N3O2
